US08648202B2
A solution of 1.16 g (3.0 mmol) of tris(pentafluoroethyl)phosphine, (C2F5)3P, in 1,2-dimethoxyethane is treated with an excess (6 mmol) of a 1.5 M solution of KOH in water. The mixture is stirred at room temperature for 30 min, and the solvent is removed in vacuo. The residue is taken up in 1,2-dimethoxyethane, and an excess of PCl5 (6 mmol) is added, giving bis(pentafluoroethyl)phosphinous acid chloride, (C2F5)2PCl, identified as described above.

reactant | tris(pentafluoroethyl)phosphine | 3.0 mmol, 1.16 g | FC(C(F)(F)F)(F)P(C(C(F)(F)F)(F)F)C(C(F)(F)F)(F)F | C6F15P
reactant | (C2F5)3P | P(C(F)(F)C(F)(F)F)(C(F)(F)C(F)(F)F)C(F)(F)C(F)(F)F | C6F15P
reactant | KOH | [OH-].[K+]
reactant | PCl5 | 6 mmol | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
solvent | water | O | H2O
product | (C2F5)2PCl | P(C(F)(F)C(F)(F)F)(C(F)(F)C(F)(F)F)Cl | C4ClF10P
